US09388176B2
4-(2-Amino-5,7-dihydro-pyrrolo[3,4-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid (3-trifluoromethyl-phenyl)-amide
A mixture of 4-(2-(Methylsulfinyl)-5H-pyrrolo[3,4-d]pyrimidin-6(7H)-yl)-N-(3-(trifluoromethyl)phenyl)picolinamide and 4-(2-(methylsulfonyl)-5H-pyrrolo[3,4-d]pyrimidin-6(7H)-yl)-N-(3-(trifluoromethyl)phenyl)picolinamide was suspended in 1,4-dioxane (7 mL). Ammonium hydroxide (30%, 1.5 mL) was added and the reaction was heated at 90° C. for 16 hours. TLC indicated only partial conversion to the desired amine. The solvent was reduced with a nitrogen stream and then additional ammonium hydroxide (1 mL) was added. The reaction was sealed in a tube and heated at 100° C. for 17 h. The solvent was evaporated in vacuo. The resulting solid was triturated with water and then methanol. The solid was chromatographed on silica gel (4 g) eluted with ethyl acetate:methanol (9:1) to give the title compound (10.6 mg, 0.026 mmol).

reactant | 4-(2-(Methylsulfinyl)-5H-pyrrolo[3,4-d]pyrimidin-6(7H)-yl)-N-(3-(trifluoromethyl)phenyl)picolinamide | CS(=O)C=1N=CC2=C(N1)CN(C2)C2=CC(=NC=C2)C(=O)NC2=CC(=CC=C2)C(F)(F)F | C20H16F3N5O2S
reactant | 4-(2-(methylsulfonyl)-5H-pyrrolo[3,4-d]pyrimidin-6(7H)-yl)-N-(3-(trifluoromethyl)phenyl)picolinamide | CS(=O)(=O)C=1N=CC2=C(N1)CN(C2)C2=CC(=NC=C2)C(=O)NC2=CC(=CC=C2)C(F)(F)F | C20H16F3N5O3S
reactant | Ammonium hydroxide | 1.5 mL | [OH-].[NH4+]
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 4-(2-Amino-5,7-dihydro-pyrrolo[3,4-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.026 mmol, 10.6 mg | FC(C=1C=C(C=CC1)NC(=O)C1=NC=CC(=C1)N1CC=2N=C(N=CC2C1)N)(F)F | C19H15F3N6O
